US04666906
N-(1-Carboxyethyl)glycine disodium salt (0.060 m) is dissolved in water (40 ml) and cooled to 0°. Benzyl chloroformate (13.3 g, 0.078 m) is added in portions as the pH of the solution is kept at 9-12 by addition of 2N sodium hydroxide solution as needed. When addition is complete the mixture is stirred an additional 3 hous at 0°-10° C., then extracted with diethyl ether. The aqueous layer is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer is separated, dried over sodium sulfate and concentrated to give N-benzyloxycarbonyl-N-(1-carboxyethyl)glycine (VIII-B).

reactant | N-(1-Carboxyethyl)glycine disodium salt | [Na+].[Na+].C(=O)(O)C(C)NCC(=O)[O-].C(=O)(O)C(C)NCC(=O)[O-]
reactant | Benzyl chloroformate | 13.3 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | N-benzyloxycarbonyl-N-(1-carboxyethyl)glycine | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C(C)C(=O)O | C13H15NO6
